US04165430
(b) (6R,7R)-3-Azidomethyl-7-(2-carboxymethoxyiminophenylacetamido)-ceph-3-em-4-carboxylic acid
Diphenylmethyl (6R,7R)-3-azidomethyl-7-(2-tertbutylcarbonylmethoxyiminophenylacetamido)-ceph-3-em-4-carboxylate (287 mg) was added to a mixture of anisole (0.3 ml) and trifluoroacetic acid (4 ml). The solution was stirred for 40 min. then evaporated. Benzene (50 ml) was added to the residue and removed by evaporation. The residue was partitioned between ethyl acetate and sodium bicarbonate solution; and the latter was acidified (10 N-HCl) under ethyl acetate, and extracted twice more with ethyl acetate. The organic extracts were washed with water and dried (Na2SO4), then evaporated, leaving an orange foam (183 mg). The foam was dissolved in ethyl acetate (2 ml) and added dropwise to vigorously stirred light petroleum (b.p. 40°-60°, 200 ml). Filtration gave the title-compound (100 mg, 51%), λmax (EtOH) 257.5 nm (ε 15,600), νmax (Nujol) 2100(N3), 1778(β-lactam), 1724(CO2H), 1670 and 1534 cm-1 (CONH), τ(Me2SO d6) values include 0.17(d, J=8 Hz; CONH), 2.2-2.7(Ph), 4.10 (C- 7H), 4.73(C-6H), 5.30(OCH2), 5.58 and 6.04(AB quartet, J=13 Hz, CH2N3), 6.29 and 6.52(AB quartet, J=18 Hz, SCH2).

reactant | Diphenylmethyl (6R,7R)-3-azidomethyl-7-(2-tertbutylcarbonylmethoxyiminophenylacetamido)-ceph-3-em-4-carboxylate | 287 mg | N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2C(C=CC=C2)=NOCC(=O)C(C)(C)C)=O)=O | C35H36N6O6S
reactant | anisole | 0.3 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (6R,7R)-3-Azidomethyl-7-(2-carboxymethoxyiminophenylacetamido)-ceph-3-em-4-carboxylic acid | 183 mg | N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC2C(C=CC=C2)=NOCC(=O)O)=O)=O | C18H18N6O7S
